US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-benzofuran-2-ylmethyl-N-methyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting benzofuran-2-ylmethyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (158 mg, 20%) was prepared as an off-white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.7 (s, 1H), 8.35-8.33 (m, 2H), 7.99 (br s, 2H), 7.62-7.19 (m, 6H), 6.82 (d, J=12.2 Hz, 1H), 5.01-4.80 (m, 2H), 3.62-3.25 (m, 6H), 3.22 (s, 2H), 3.10-2.92 (m, 5H), 2.73 (s, 3H);

reactant | (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCN(CC1)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | benzofuran-2-ylmethyl-methylamine | O1C(=CC2=C1C=CC=C2)CNC | C10H11NO
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-benzofuran-2-ylmethyl-N-methyl-acrylamide hydrochloride | 158 mg, 20% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(C)CC=1OC2=C(C1)C=CC=C2)CN2CCN(CC2)C | InChI=1S/C24H29N5O2.ClH/c1-27-9-11-29(12-10-27)16-20-13-18(15-26-24(20)25)7-8-23(30)28(2)17-21-14-19-5-3-4-6-22(19)31-21;/h3-8,13-15H,9-12,16-17H2,1-2H3,(H2,25,26);1H/b8-7+;
